US06136805
) 3.18 g of N-(2-nitro-4-trifluoromethyl-5-fluorophenyl)-aminomethanephosphonic acid is stirred together with 3.18 g of sodium carbonate and 2.82 g of phenol in 40 ml of water for 4 hours at a bath temperature of 120° C. After acidification with 4N hydrochloric acid, the precipitated product is suctioned off. 2.69 g of N-(2-nitro-4-TRIFLUOROMETHYL-5-phenoxyphenyl)-aminomethanephosphonic acid is obtained.

reactant | N-(2-nitro-4-trifluoromethyl-5-fluorophenyl)-aminomethanephosphonic acid | 3.18 g | [N+](=O)([O-])C1=C(C=C(C(=C1)C(F)(F)F)F)NCP(O)(=O)O | C8H7F4N2O5P
reactant | sodium carbonate | 3.18 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenol | 2.82 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | water | 40 ml | O | H2O
product | N-(2-nitro-4-TRIFLUOROMETHYL-5-phenoxyphenyl)-aminomethanephosphonic acid | 2.69 g | [N+](=O)([O-])C1=C(C=C(C(=C1)C(F)(F)F)OC1=CC=CC=C1)NCP(O)(=O)O | C14H12F3N2O6P
